US07615549B2
(c) 3-(4-amino-2-methyl-phenyl)-[1,3]oxazepan-2-one
1.95 g (7.79 mmol) 3-(2-methyl-4-nitro-phenyl)-[1,3]oxazepan-2-one are dissolved in 200 ml of tetrahydrofuran and combined with 700 mg Raney nickel. The mixture is hydrogenated in a Parr apparatus at ambient temperature at 1 bar hydrogen pressure for four hours. Then the catalyst is filtered off and the filtrate is evaporated down i. vac.

reactant | 3-(2-methyl-4-nitro-phenyl)-[1,3]oxazepan-2-one | 7.79 mmol, 1.95 g | CC1=C(C=CC(=C1)[N+](=O)[O-])N1C(OCCCC1)=O | C12H14N2O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 700 mg | [Ni] | Ni
product | 3-(4-amino-2-methyl-phenyl)-[1,3]oxazepan-2-one | NC1=CC(=C(C=C1)N1C(OCCCC1)=O)C | C12H16N2O2
